US03970670
The starting material is prepared as follows: The mixture of 1.8 g of 9-cyano-2-nonenal, 1.4 g of 2,2-diethoxy-ethanethiol and 50 μl of triethylamine is allowed to stand at room temperature for 48 hours. It is taken up in 100 ml of diethyl ether, the solution washed with water, dried and evaporated, to yield the 9-cyano-3-(2,2-diethoxy-ethylmercapto)-nonenal, showing in NMR spectrum peaks at 9.78, 4.55, 3.57 and 2.61 ppm.

reactant | 9-cyano-2-nonenal | 1.8 g | C(#N)CCCCCCC=CC=O | C10H15NO
reactant | 2,2-diethoxy-ethanethiol | 1.4 g | C(C)OC(CS)OCC | C6H14O2S
reactant | triethylamine | 50 μl | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 9-cyano-3-(2,2-diethoxy-ethylmercapto)-nonenal | C(#N)CCCCCCC(=CC=O)SCC(OCC)OCC | C16H27NO3S
